US07282501B2
Step E: 3-{2-Cyclohexylcarbamoyloxymethyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenyl}propionic acid tert-butyl ester
A 40 mL Carousel tube was charged with 3-(2-cyclohexylcarbamoyloxymethyl-4-hydroxyphenyl)propionic acid tert-butyl ester (0.10 g, 0.26 mmol) in anhydrous DMF (1.0 mL). Toluene-4-sulfonic acid 2-(5-methyl-2-phenyloxazol-4-yl)ethyl ester (0.104 g, 0.292 mmol) and cesium carbonate (0.13 g, 0.40 mmol) were added. The mixture was stirred and heated at 55° C. under a nitrogen atmosphere for 30 h and was concentrated. The residue was diluted with EtOAc (50 mL) and washed twice with brine (2×), dried (Na2SO4), and concentrated. The crude residue was purified using radial chromatography (EtOAc: CH2Cl2 2:98 to 5:95) to give a white solid (0.085 g, 57%). 1H NMR (400 MHz, CDCl3) 1.07-1.19 (m, 3H), 1.24-1.38 (m, 2H), 1.42 (s, 9H), 1.56-1.60 (m, 1H), 1.67-1.70 (m, 2H), 1.91-1.93 (m, 2H), 2.37 (s, 3H), 2.46 (t, J=7.8 Hz, 2H), 2.88 (t, J=7.8 Hz, 2H), 2.96 (t, J=7.8 Hz, 2H), 3.48-3.50 (m, 1H), 4.22 (t, J=6.8 Hz, 2H), 4.69-4.71 (m, 1H), 5.07 (s, 2H), 6.80 (dd, J=8.3, 2.4 Hz, 1H), 6.90 (d, J=2.4 Hz, 1H), 7.10 (d, J=8.3 Hz, 1H), 7.39-7.45 (m, 3H), 7.98 (dd, J=4.2, 2.2 Hz, 2H). MS (ES) m/e 563 (M+1).

reactant | 3-(2-cyclohexylcarbamoyloxymethyl-4-hydroxyphenyl)propionic acid tert-butyl ester | 0.26 mmol, 0.10 g | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O)COC(NC1CCCCC1)=O)=O | C21H31NO5
reactant | Toluene-4-sulfonic acid 2-(5-methyl-2-phenyloxazol-4-yl)ethyl ester | 0.292 mmol, 0.104 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C19H19NO4S
reactant | cesium carbonate | 0.40 mmol, 0.13 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 3-{2-Cyclohexylcarbamoyloxymethyl-4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenyl}propionic acid tert-butyl ester | 0.085 g, 57% | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)COC(NC1CCCCC1)=O)=O | C33H42N2O6
